US05434263
60.0 g (0.36 mol) of tetraethylammonium chloride and 20.3 g (0.2 mol) of triethylamine are added to a suspension of 42.6 g (0.18 mol) of 2,9-diacetylguanine in 450 ml of acetonitrile. 165.3 g (1.08 mol) of phosphorus oxychloride are then added at a temperature of the reaction mixture of 0° C. to 5° C. The mixture is stirred at 25° C. for 20 hours and then worked up as in Example 1. 30.9 g of 2-acetamido-6-chloropurine are obtained.

reactant | triethylamine | 0.2 mol, 20.3 g | C(C)N(CC)CC | C6H15N
reactant | 2,9-diacetylguanine | 0.18 mol, 42.6 g | CC(=O)NC1=NC(=O)C2=C(N1)N(C=N2)C(=O)C | C9H9N5O3
reactant | phosphorus oxychloride | 1.08 mol, 165.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | tetraethylammonium chloride | 0.36 mol, 60.0 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 450 ml | C(C)#N | C2H3N
product | 2-acetamido-6-chloropurine | 30.9 g, Yield: 80.6% | C(C)(=O)NC1=NC(=C2NC=NC2=N1)Cl | C7H6ClN5O
